US06225330B1
N1-{4-[(4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]-thiazol-2-ylamino)methyl]cyclohexyl}acetamide:
To a stirred solution of N2-[(4-aminocyclohexyl)methyl]-4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-amine (0.600 g, 1.49 mmol) in anhydrous pyridine (3 ml) and diisopropylethylamine was added acetyl chloride (0.130 ml, 1.83 mmol) dropwise. The solution was stirred for 30 minutes at room temperature and then poured into water (60 ml). The mixture was extracted with EtOAc, and the organic phase evaporated to afford a residue that was chromatographed on silica-gel eluting with EtOAc to yield 72% (400 mg) of the desired product as a light yellow solid: m.p. 69-72° C. 1H-NMR (CDCl3) δ 1.11 (4H, m), 1.60 (1H, broad), 1.73 (1H, broad), 1.83 (2H, m), 1.95 (3H, s), 2.05 (2H, m), 3.14 (4H, m), 3.73 (1H, broad), 4.33 (2H, t, J=4.9 Hz), 5.30 (1H, broad), 7.00 (1H, dd, J=0.9 Hz, 7.7 Hz), 7.12 (2H, m), 8.24 (1H, dd, J=0.9 Hz, 7.8 Hz). ESIMS m/z=372 (MH+).

reactant | N2-[(4-aminocyclohexyl)methyl]-4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]thiazol-2-amine | 1.49 mmol, 0.600 g | NC1CCC(CC1)CNC=1SC2=C(N1)C1=C(OCC2)C=CC=C1 | C18H23N3OS
reactant | acetyl chloride | 1.83 mmol, 0.130 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | 60 ml | O | H2O
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | N1-{4-[(4,5-dihydrobenzo[2,3]oxepino[4,5-d][1,3]-thiazol-2-ylamino)methyl]cyclohexyl}acetamide | 400 mg, 72% | N1=C(SC2=C1C1=C(OCC2)C=CC=C1)NCC1CCC(CC1)NC(C)=O | C20H25N3O2S
